US06518423B1
Methyl 4-[1-(benzyloxycarbonyl)piperidin-4-yl]phenylacetate
To a solution of 1.55 g of 4-[1-(benzyloxycarbonyl)-piperidin-4-yl]phenylacetic acid in methanol (20 ml) was added 13.2 ml of trimethylsilyldiazomethane (2 M solution in hexane) and the resulting mixture was reacted at room temperature for 1 hour. After distilling off the reaction mixture under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 1.0 of the title compound as a colorless oily substance.

reactant | 4-[1-(benzyloxycarbonyl)-piperidin-4-yl]phenylacetic acid | 1.55 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)CC(=O)O | C21H23NO4
reactant | trimethylsilyldiazomethane | 2 M, 13.2 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 4-[1-(benzyloxycarbonyl)piperidin-4-yl]phenylacetate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)CC(=O)OC | C22H25NO4
